US05246951
3-Methylbenzoselenazolinone
0.01 mol of benzoselenazolinone is introduced into a ground-necked round-bottomed flask containing 0.35 gram (0.015 gram-atom) of sodium dissolved in 50 l cm3 of absolute alcohol. 3.1 cm3 (0.05 mol) of methyl iodide are added dropwise and with stirring. After 12 hours, the solvent is evaporated off. The solid obtained is taken up with 30 to 40 cm3 of water and then extracted with chloroform. The chloroform phase is dried over calcium chloride and the solvent is then evaporated off under reduced pressure. The product is recrystallized in cyclohexane.

reactant | benzoselenazolinone | 0.01 mol | [Se]1(C=NC2=C1C=CC=C2)=O | C7H5NOSe
reactant | sodium | 0.35 gram | [Na] | Na
reactant | methyl iodide | 0.05 mol, 3.1 cm3 | CI | CH3I
solvent | water | 30 to 40 cm3 | O | H2O
product | 3-Methylbenzoselenazolinone | CN1C[Se](C2=C1C=CC=C2)=O | C8H9NOSe
